US06380218B1
N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-(3-trifluoromethoxy-phenoxy)-nicotinamide
A solution of 2-(3-Trifluoromethoxy-phenoxy)-nicotinic acid (0.409 grams, 1.366 mmole) 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.200 grams, 1.24 mmole), and 1-hydroxybenzotriazole hydrate (0.185 grams, 1.366 mmole) in dry dimethylformamide was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.286 grams, 1.50 mmole) and stirred over night. The mixture was diluted ethyl acetate which was washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica eluting with 3.5% methanol/methylene chloride to give an oil. (0.430 g). MS (m/e) 447 (M++1); 1H NMR (CDCl3) d 1.50 (6H, s), 4.70 (2H, d, J=5.81 Hz), 7.0-7.5 (9H, m), 8.00 (1H, bs), 8.20 (1H, m), 8.65 (1H, m).

reactant | 2-(3-Trifluoromethoxy-phenoxy)-nicotinic acid | 1.366 mmole, 0.409 grams | FC(OC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C13H8F3NO4
reactant | 1-hydroxybenzotriazole hydrate | 1.366 mmole, 0.185 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.50 mmole, 0.286 grams | Cl.C(C)N=C=N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-(3-trifluoromethoxy-phenoxy)-nicotinamide | OC(C)(C)C1=CC=C(CNC(C2=C(N=CC=C2)OC2=CC(=CC=C2)OC(F)(F)F)=O)C=C1 | C23H21F3N2O4
